US09107411B2
6-Chloro-N5-(1-cyanocyclopropyl)-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide (0.100 g, 0.18 mmol) is initially charged in dry acetonitrile (2 ml) under argon and cooled to 0° C., and chlorosulphonyl isocyanate (0.028 g, 0.19 mmol) is added dropwise. After 30 min, N,N-dimethylformamide (0.015 g, 0.19 mmol) is added and the mixture is stirred at 0° C. for a further 30 min and at room temperature overnight. Then the mixture is cooled again to 0° C. and chlorosulphonyl isocyanate (0.028 g, 0.19 mmol) is added dropwise, N,N-dimethylformamide (0.015 g, 0.19 mmol) is added after 30 min, and the mixture is stirred at room temperature for a further 48 h. The reaction mixture is then concentrated under reduced pressure, and the residue is admixed with sodium hydrogencarbonate and extracted with dichloromethane. The organic phase is dried with sodium sulphate, filtered and concentrated under reduced pressure. The residue is purified by means of preparative HPLC (Kromasil100, C18 250×20; eluent: acetonitrile in water, gradient: 10-100%) to obtain 0.006 g (5% of theory) of 6-chloro-3-cyano-N5-(1-cyanocyclopropyl)-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide.

reactant | 6-Chloro-N5-(1-cyanocyclopropyl)-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | 0.18 mmol, 0.100 g | ClC1=C(C=C2C=C(N(C2=C1)CC)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1(CC1)C#N | C25H19ClF6N4O2
reactant | chlorosulphonyl isocyanate | 0.19 mmol, 0.028 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N,N-dimethylformamide | 0.19 mmol, 0.015 g | CN(C=O)C | C3H7NO
reactant | chlorosulphonyl isocyanate | 0.19 mmol, 0.028 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N,N-dimethylformamide | 0.19 mmol, 0.015 g | CN(C=O)C | C3H7NO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 6-chloro-3-cyano-N5-(1-cyanocyclopropyl)-1-ethyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | 0.006 g, 5% | ClC1=C(C=C2C(=C(N(C2=C1)CC)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C#N)C(=O)NC1(CC1)C#N | C26H18ClF6N5O2
